EPC2361 double pulse smoke test
.include ../../data/spice/EPC2361.lib
Vbus dc 0 75
Lloop dc lp 2n Rser=1m
Rloop lp top 5m
Lload dc sw 1u Rser=1m
Xfree gh top sw EPC2361
Roff gh sw 0.9
Vsense sw d 0
Xdut g d s EPC2361
Lsource s 0 0.2n Rser=0.1m
Vdrive drive 0 PWL(0 0 100n 0 102n 5 766.667n 5 768.667n 0 866.667n 0 868.667n 5 1066.667n 5 1068.667n 0)
Rg drive gx 1.5
Lg gx g 1n Rser=10m
.temp 125
.options plotwinsize=0 numdgt=15 reltol=1e-4
.save V(d) V(s) V(g) V(top) V(sw) I(Vsense) I(Lload)
.tran 0 1.2u 0 0.2n
.end
